US07829570B2
3-Iodo-1-(4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine
The title compound was prepared from 3-iodo-1H-pyrazolo[4,3-d]pyrimidin-7-amine and 1-fluoro-4-nitrobenzene as described for the preparation of 3-iodo-1-(3-methoxy-4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine 1H NMR (DMSO-d6, 400 MHz) δ 8.40-8.50 (m, 3H), 7.79 (d, 2H), 7.11 (bs, 2H); RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 15.98 min

reactant | 3-iodo-1H-pyrazolo[4,3-d]pyrimidin-7-amine | IC1=NNC2=C1N=CN=C2N | C5H4IN5
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3-iodo-1-(3-methoxy-4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine | IC1=NN(C2=C1N=CN=C2N)C2=CC(=C(C=C2)[N+](=O)[O-])OC | C12H9IN6O3
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | 3-Iodo-1-(4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine | IC1=NN(C2=C1N=CN=C2N)C2=CC=C(C=C2)[N+](=O)[O-] | C11H7IN6O2
